US08455499B2
Step 2: 1-[3-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-prop-2-ynyl]-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester
To a solution of {5-[4-(3-hydroxy-prop-1-ynyl)-phenyl]-3-methyl-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester (0.200 g, 0.49 mmol), ethyl 5-(trifluoromethyl)-1H-pyrazole-4-carboxylate (0.101 g, 0.49 mmol), and triphenylphosphine (0.127 g, 0.49 mmol) in THF (4 mL) was added diisopropyl azodicarboxylate (0.10 mL, 0.49 mmol), and the reaction was stirred at room temperature for 2 hours. The mixture was concentrated, and the residue was purified by preparative HPLC to give the title compound.

reactant | {5-[4-(3-hydroxy-prop-1-ynyl)-phenyl]-3-methyl-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | 0.49 mmol, 0.200 g | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C#CCO)C)=O | C22H19ClN2O4
reactant | ethyl 5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 0.49 mmol, 0.101 g | FC(C1=C(C=NN1)C(=O)OCC)(F)F | C7H7F3N2O2
reactant | triphenylphosphine | 0.49 mmol, 0.127 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.49 mmol, 0.10 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-[3-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-prop-2-ynyl]-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1C(F)(F)F)CC#CC1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)Cl | C29H24ClF3N4O5
